US08735387B2
1-{4-[5-(4-Chloro-benzyl)-7-ethoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-3-(5-isopropyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propan-2-ol
A solution of 300 mg of 5-(4-chloro-benzyl)-2-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-7-ethoxy-oxazolo[5,4-d]pyrimidine (prepared analogously as described in example 20, step (a)) and 92 mg of 5-isopropyl-4H-[1,2,4]triazole-3-thiol in 3 ml of dimethylformamide was heated for 2 h to 130° C. in a microwave reactor. After removal of the solvent the product was isolated by preparative HPLC (method HPLC1) to yield 89 mg of the title compound.

reactant | 5-(4-chloro-benzyl)-2-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-7-ethoxy-oxazolo[5,4-d]pyrimidine | 300 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)OCC3OC3)C)OCC)C=C1 | C25H24ClN3O4
reactant | 5-isopropyl-4H-[1,2,4]triazole-3-thiol | 92 mg | C(C)(C)C=1NC(=NN1)S | C5H9N3S
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-{4-[5-(4-Chloro-benzyl)-7-ethoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-3-(5-isopropyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propan-2-ol | 89 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(OCC(CSC2=NN=C(N2)C(C)C)O)C(=C3)C)C)OCC)C=C1 | C30H33ClN6O4S
